US06576627B1
The crude 4-hydroxypiperidine-4-carboxylic acid obtained in the above step (a) was dissolved in a mixed solvent of 1 N aqueous sodium hydroxide (1.4 ml) and tetrahydrofuran (2 ml), and the solution was added with benzyl chloroformate (0.1 ml). The reaction mixture was stirred at room temperature for 2 hours and 30 minutes, and then acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated to obtain crude 1-benzyloxycarbonyl-4-hydroxypiperidine-4-carboxylic acid. This crude 1-benzyloxycarbonyl-4-hydroxypiperidine-4-carboxylic acid was subjected to the measurement of molecular weight and then used in the following reaction without further purification.

reactant | 4-hydroxypiperidine-4-carboxylic acid | OC1(CCNCC1)C(=O)O | C6H11NO3
reactant | benzyl chloroformate | 0.1 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 N, 1.4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-4-hydroxypiperidine-4-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C(=O)O)O | C14H17NO5
